************************************************************************
* auCdl Netlist:
* 
* Library Name:  lab3
* Top Cell Name: Complex_f2
* View Name:     schematic
* Netlisted on:  Jun 17 00:29:26 2017
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL gnd!
+        vdd!

*.PIN gnd!
*+    vdd!

************************************************************************
* Library Name: lab3
* Cell Name:    Complex_f2
* View Name:    schematic
************************************************************************

.SUBCKT Complex_f2 A B C D S
*.PININFO A:I B:I C:I D:I S:O
MNA S A net44 gnd! nsvtgp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MNB net44 B gnd! gnd! nsvtgp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MNC net44 C gnd! gnd! nsvtgp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MND net44 D gnd! gnd! nsvtgp w=0.2 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MPA S A vdd! vdd! psvtgp w=0.4 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MPB net59 B S vdd! psvtgp w=0.4 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MPC net63 C net59 vdd! psvtgp w=0.4 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
MPD vdd! D net63 vdd! psvtgp w=0.4 l=0.06 nfing=1 sense=0 ngcon=1 m=1 
+ accurateFlow=0
.ENDS

